US05473104
To an aqueous solution of trimethylamine (250 mL), 25% by weight solution of trimethylamine in water, is added (S)-3-hydroxybutyrolactone methane sulfonate (98 g, 0.5 mol) prepared as described above. The resulting solution is stirred at room temperature 1 hr, and then heated at 100° C. in a sealed vessel for 16 hrs. Upon cooling the solution to room temperature, the reaction mixture is evaporated to dryness in vacuo using ethanol and toluene (5:1) to remove residual water by azeotropic distillation. The crude L-carnitine is triturated with anhydrous acetone (100 ml) and the purified L-carnitine thus produced is collected by filtration. [α]D22 -31° (c 10.0, H2O).

reactant | trimethylamine | 250 mL | CN(C)C | C3H9N
reactant | (S)-3-hydroxybutyrolactone methane sulfonate | 0.5 mol, 98 g | CS(=O)(=O)O.O[C@H]1CC(=O)OC1
solvent | water | O | H2O
product | L-carnitine | O[C@@H](C[N+](C)(C)C)CC([O-])=O | C7H15NO3
